US07157488B2
Combine 1-bromo-4-fluoro-5-methoxy-2-nitrobenzene (20.5 g, 82 mmol)and Pt-on-carbon (sulfided) in THF (600 mL) and hydrogenate at 60 psi (414 kPa) over for 4 hours. Filter the reaction through celite to remove the catalyst and remove the solvent to give 2-bromo-5-fluoro-4-methoxyaniline as a brown solid which may taken on without further purification.

reactant | 1-bromo-4-fluoro-5-methoxy-2-nitrobenzene | 82 mmol, 20.5 g | BrC1=C(C=C(C(=C1)OC)F)[N+](=O)[O-] | C7H5BrFNO3
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 2-bromo-5-fluoro-4-methoxyaniline | BrC1=C(N)C=C(C(=C1)OC)F | C7H7BrFNO
